US06040443
36.6 g of 4-nitrobenzoyl chloride are added to 48 g of p-xylene over 5 minutes and the suspension warmed to 80° C. To this suspension is then added, over 90 minutes, at 80° C., a solution of 13.2 g of salicylic acid amide in 7.2 g of dimethylacetamide, with stirring. The temperature is then raised to 135° C. over 1 hour and the mixture stirred at this temperature for a further 6 hours. After this time, the mixture is treated with 48 g of p-xylene, cooled to 80° C., the precipitated solids filtered, washed with p-xylene and dried, to yield 25.87 g of 2-(4-nitrophenyl)-4H-1,3-benzoxazin-4-one melting at 249-251° C. and having the following elemental analysis:

reactant | 4-nitrobenzoyl chloride | 36.6 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | p-xylene | 48 g | CC=1C=CC(=CC1)C | C8H10
reactant | salicylic acid amide | 13.2 g | C(C=1C(O)=CC=CC1)(=O)N | C7H7NO2
reactant | p-xylene | 48 g | CC=1C=CC(=CC1)C | C8H10
solvent | dimethylacetamide | 7.2 g | CC(=O)N(C)C | C4H9NO
product | 2-(4-nitrophenyl)-4H-1,3-benzoxazin-4-one | 25.87 g | [N+](=O)([O-])C1=CC=C(C=C1)C=1OC2=C(C(N1)=O)C=CC=C2 | C14H8N2O4
